US08476297B2
A solution of 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydro-isoquinoline (0.7 g, 2.1 mmol) in EtOH (20 mL) was stirred with 20% Pd(OH)2/C (0.20 g) under hydrogen atmosphere at 50 psi and at RT for 3 h. The reaction mixture was filtered through a celite pad and the filtrate was concentrated in vacuo. The residue was purified by preparative HPLC [gradient 10-90% MeCN (0.1% TFA)/H2O (0.1% TFA)] to give the pure product which was dissolved in methanol (10 mL) and neutralized by passing the solution through a Polymer Lab-HCO3 Macroporous resin cartridge, and the filtrate was concentrated to give 8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline as an off-white solid. MS (ESI pos. ion) m/z: 296 (M+1).

reactant | 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydro-isoquinoline | 2.1 mmol, 0.7 g | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2CC1)F)C1=CC=C(C=C1)C(F)(F)F | C23H19F4N
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.20 g | [OH-].[OH-].[Pd+2]
product | 8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC=1C=CC=C2CCNC(C12)C1=CC=C(C=C1)C(F)(F)F | C16H13F4N
